* source GNP-3 AKTIV RC-FILTER TP
E_U8         N20605 0 VALUE {LIMIT(V(0,N20591)*1E6,-15V,+15V)} _U8 0 N20591 1G

E_U11         N17907 0 VALUE {LIMIT(V(0,N17891)*1E6,-15V,+15V)} _U11 0 N17891
+  1G

R_Ra1         N20435 N20415  3.32k  
R_Rf         N19166 N19280  3.32k  
E_U12         N17975 0 VALUE {LIMIT(V(0,N17961)*1E6,-15V,+15V)} _U12 0 N17961
+  1G

V_U13         N20435 0  
+PULSE 1 0 0 
V_V1         N19110 0 DC 0Vdc AC 1Vac 
R_Rb1         N20415 N20449  3.32k  
R_Re         N19090 N19212  2.32k  
R_Ra2         N17805 N17765  3.32k  
R_Rd1         N20491 N20507  1.69k  
R_Rb2         N17765 N17819  3.32k  
E_U1         N19124 0 VALUE {LIMIT(V(0,N19090)*1E6,-15V,+15V)} _U1 0 N19090 1G

C_C3         N20521 N20537  10n  
R_Rc1         N20449 N20491  3.32k  
C_C4         N20591 N20605  10n  
R_Rd2         N17861 N17877  5.36k  
E_U2         N19182 0 VALUE {LIMIT(V(0,N19166)*1E6,-15V,+15V)} _U2 0 N19166 1G

C_C5         N17891 N17907  10n  
R_R3         N20507 N20521  10k  
R_Rc2         N17819 N17861  3.32k  
E_U3         N19212 0 VALUE {LIMIT(V(0,N19196)*1E6,-15V,+15V)} _U3 0 N19196 1G

C_C6         N17961 N17975  10n  
R_R4         N20537 N20591  10k  
R_R5         N17877 N17891  10k  
E_U4         N19280 0 VALUE {LIMIT(V(0,N19266)*1E6,-15V,+15V)} _U4 0 N19266 1G

R_Rf1         N20491 N20605  3.32k  
R_Ra         N19110 N19090  3.32k  
R_R6         N17907 N17961  10k  
V_V2         N20435 0 DC 0Vdc AC 1Vac 
R_Re1         N20415 N20537  3.09k  
R_Rb         N19090 N19124  3.32k  
R_Rf2         N17861 N17975  3.32k  
V_V3         N17805 0 DC 0Vdc AC 1Vac 
R_Rd         N19166 N19182  3.32k  
E_U5         N20449 0 VALUE {LIMIT(V(0,N20415)*1E6,-15V,+15V)} _U5 0 N20415 1G

R_Re2         N17765 N17907  2.43k  
C_C1         N19196 N19212  10n  
R_Rc         N19124 N19166  3.32k  
C_C2         N19266 N19280  10n  
E_U6         N20507 0 VALUE {LIMIT(V(0,N20491)*1E6,-15V,+15V)} _U6 0 N20491 1G

E_U9         N17819 0 VALUE {LIMIT(V(0,N17765)*1E6,-15V,+15V)} _U9 0 N17765 1G

R_R1         N19182 N19196  10k  
E_U7         N20537 0 VALUE {LIMIT(V(0,N20521)*1E6,-15V,+15V)} _U7 0 N20521 1G

E_U10         N17877 0 VALUE {LIMIT(V(0,N17861)*1E6,-15V,+15V)} _U10 0 N17861
+  1G

R_R2         N19212 N19266  10k  
